US06831106B1
i) Methyl 3′-[3,4-bis(benzoyloxymethyl)benzyloxy]-biphenyl-4-carboxylate
1 g (4.1 mmol) of ethyl 3′-hydroxybiphenyl-4-carboxylate, 1.98 g (4.5 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 600 mg of potassium carbonate are dissolved in 40 mL of 2-butanone. The mixture is brought to reflux (80° C.) and then stirred for 4 hours. After cooling, the reaction medium is filtered and then concentrated under reduced pressure. The residue is purified by chromatography on a column of silica, to give a white solid (m.p.=71-72° C.) (m=2.18 g; Y=88%).

reactant | ethyl 3′-hydroxybiphenyl-4-carboxylate | 4.1 mmol, 1 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OCC | C15H14O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 4.5 mmol, 1.98 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 40 mL | CC(CC)=O | C4H8O
product | Methyl 3′-[3,4-bis(benzoyloxymethyl)benzyloxy]-biphenyl-4-carboxylate | 2.18 g, 88% | C(C1=CC=CC=C1)(=O)OCC=1C=C(COC=2C=C(C=CC2)C2=CC=C(C=C2)C(=O)OC)C=CC1COC(C1=CC=CC=C1)=O | C37H30O7
